US07425568B2
d) 5-Nitro-2-(6-phenyl-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-pyridine
6-Phenyl-5,6,7,8-tetrahydro-naphthalen-2-ol (30 mg), 2-chloro-5-nitropyridine (21 mg) and potassium fluoride (23 mg) in dry dimethylformamide were heated at 120° C. until disappearance of the starting material. Water and 1 N HCl were added and the mixture extracted with ethyl acetate. Ethyl acetate was washed with brine and water, dried and evaporated. The product was recrystallised from toluene. 1H NMR (400 MHz, d6-DMSO) δ: 9.04 (d, 1H, J 2.4 Hz), 8.61 (dd, 1H, J 9.0, 2.5), 7.18-7.35 (m, 7H), 6.95-6.99 (m, 2H), 2.83-3.01 (m, 5H), 1.87-2.04 (m, 2H).

reactant | 6-Phenyl-5,6,7,8-tetrahydro-naphthalen-2-ol | 30 mg | C1(=CC=CC=C1)C1CC=2C=CC(=CC2CC1)O | C16H16O
reactant | 2-chloro-5-nitropyridine | 21 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium fluoride | 23 mg | [F-].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 5-Nitro-2-(6-phenyl-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=2CCC(CC2C=C1)C1=CC=CC=C1 | C21H18N2O3
